US09107916B2
C. 2-[5-[[4-fluoro-3-[(4-fluorophenyl)methoxy]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-fluoro-3-[(4-fluorophenyl)methoxy]phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.09 (2H, s), 5.16 (2H, s), 5.69 (1H, s), 6.98-7.13 (5H, m), 7.37-7.40 (3H, m), 7.56 (1H, s), 8.03 (1H, s), 8.67 (1H, d, J=4.8 Hz). [M+H] Calc'd for C23H16F2N4O2, 419. Found, 419.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-fluoro-3-[(4-fluorophenyl)methoxy]phenyl]methanol | FC1=C(C=C(C=C1)CO)OCC1=CC=C(C=C1)F | C14H12F2O2
product | 2-[5-[[4-fluoro-3-[(4-fluorophenyl)methoxy]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1=C(C=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCC1=CC=C(C=C1)F | C23H16F2N4O2
